US06320050B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-N-thiazol-2-yl-propionamide (150 mg, 0.354 mmol) in methanol (3 mL) was treated with 10% palladium on activated carbon (50 mg). The reaction mixture was stirred under a positive pressure of hydrogen gas (balloon) at 25° C. and atmospheric pressure for 3 h. The catalyst was then filtered off through a pad of celite, and the celite pad was washed well with ethyl acetate. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 20/1 methylene chloride/methanol) afforded 3-cyclopentyl-2-(3-hydroxyamino-4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (85 mg, 59%) as a white solid: mp 124-126° C.; EI-HRMS m/e calcd for C18H23N3O4S2 (M+) 409.1130, found 409.1131.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-N-thiazol-2-yl-propionamide | 0.354 mmol, 150 mg | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C18H21N3O5S2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | 3-cyclopentyl-2-(3-hydroxyamino-4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 85 mg, 59% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)NO | C18H23N3O4S2
